US06545112B2
2.0005 g (5.54 mol) of dioctyltin oxide and 0.344 g (5.54 mmol) of ethylene glycol were introduced into a 100 ml reaction vessel equipped with a Dean-Stark device, and the atmosphere in the reaction vessel was replaced by argon. 70 ml of toluene was added, and the mixture was dehydrated by azeotropic distillation at 135° C. and stirred for 25.5 hours during which it became an uniform solution. After left and cooled to 60° C., the toluene was distilled off under reduced pressure. The resulting white solids were dried at 60° C. for 5 hours in vaccuo to give 1,1-dioctylstanna-2,5-dioxacyclopentane, 2.19 g (97.6% yield).

reactant | dioctyltin oxide | 5.54 mol, 2.0005 g | C(CCCCCCC)[Sn](CCCCCCCC)=O
reactant | ethylene glycol | 5.54 mmol, 0.344 g | C(CO)O | C2H6O2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dioctylstanna-2,5-dioxacyclopentane | 97.6% yield | C(CCCCCCC)[Sn]1(OCCO1)CCCCCCCC | InChI=1S/2C8H17.C2H4O2.Sn/c2*1-3-5-7-8-6-4-2;3-1-2-4;/h2*1,3-8H2,2H3;1-2H2;/q;;-2;+2
